US03944560
The 3-acetoxy-3-(N-acetylisopropylaminomethyl)-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin when dissolved in ethyl acetate is reduced at low pressure over platinum with hydrogen to give 3-acetoxy-3-(N-acetylisopropylaminomethyl)-7-amino-3,4-dihydro-2H-1,5-benzodioxepin.

reactant | 3-acetoxy-3-(N-acetylisopropylaminomethyl)-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin | C(C)(=O)OC1(COC2=C(OC1)C=CC(=C2)[N+](=O)[O-])CN(C(C)=O)C(C)C | C17H22N2O7
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | platinum | [Pt] | Pt
product | 3-acetoxy-3-(N-acetylisopropylaminomethyl)-7-amino-3,4-dihydro-2H-1,5-benzodioxepin | C(C)(=O)OC1(COC2=C(OC1)C=CC(=C2)N)CN(C(C)=O)C(C)C | C17H24N2O5
